US07851629B2
4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethyl-1,2,3,6-tetrahydropyridine
Preparation according to preparation 4: 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethylpiperidin-4-ol (3.3 g, 11.3 mmol), hydrochloric acid (10 ml, conc). Yield: 3.1 g. MS m/z (rel. intensity, 70 eV) 273 (M+, 65), 272 (32), 258 (bp), 147 (24), 110 (22).

reactant | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethylpiperidin-4-ol | 11.3 mmol, 3.3 g | FC1=C(C=CC=C1C(F)(F)F)C1(CCN(CC1)CC)O | C14H17F4NO
solvent | hydrochloric acid | 10 ml | Cl | ClH
product | 4-[2-fluoro-3-(trifluoromethyl)phenyl]-1-ethyl-1,2,3,6-tetrahydropyridine | FC1=C(C=CC=C1C(F)(F)F)C=1CCN(CC1)CC | C14H15F4N
